US09056859B2
To a suspension of ethyl [6-(1H-tetrazol-1-yl)pyridin-3-yl]acetate (30.0 g, 129 mmol) in 150 mL of water was added 28 mL of 5M aq NaOH (141 mmol) over 5 min while cooled in a water bath. A very mild exotherm to +22° C. was observed. The mixture was stirred for 40 min at rt whereupon 106 mL of 2M aq H3PO4 was added over 30 min at rt. The resulting suspension was filtered, and the filter cake was washed with 2×50 mL water and dried on the frit under a stream of nitrogen overnight to afford [6-(1H-tetrazol-1-yl)pyridin-3-yl]acetic acid. This material was identical by H NMR to that synthesized according to method 1 above.

reactant | ethyl [6-(1H-tetrazol-1-yl)pyridin-3-yl]acetate | 129 mmol, 30.0 g | N1(N=NN=C1)C1=CC=C(C=N1)CC(=O)OCC | C10H11N5O2
reactant | NaOH | 141 mmol, 5M, 28 mL | [OH-].[Na+]
reactant | H3PO4 | 2M, 106 mL | OP(=O)(O)O | H3O4P
solvent | water | 150 mL | O | H2O
product | [6-(1H-tetrazol-1-yl)pyridin-3-yl]acetic acid | N1(N=NN=C1)C1=CC=C(C=N1)CC(=O)O | C8H7N5O2
